US05106871
In 160 ml of anhydrous tetrahydrofuran were dissolved 18.4 g of the so-obtained 2',4',6'-trihydroxy3'-(2-propenyl)acetophenone and 57.1 g of N,N-diisopropylethylamine, and 28.4 g of chrolomethyl methyl ether was added to the solution under ice cooling and the reaction mixture was stirred under ice cooling for 1 hour, and further, stirred at room temperature for 4 hours to effect a reaction. The reaction mixture was extracted with diethyl ether and filtered, and the solvent was removed from the filtrate by distillation. The obtained residue was subjected to the silica gel column chromatography [eluting solvent=n-hexane/ethyl acetate (7/1)] to obtain 24.8 g (yield=94.7%) of 2'-hydroxy-4',6'-bismethoxymethoxy-3'-(2-propenyl)acetophenone in the form of a colorless oil.

reactant | 2',4',6'-trihydroxy3'-(2-propenyl)acetophenone | 18.4 g | OC1=C(C(=CC(=C1CC=C)O)O)C(C)=O | C11H12O4
reactant | N,N-diisopropylethylamine | 57.1 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl ether | COC | C2H6O
reactant | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | 2'-hydroxy-4',6'-bismethoxymethoxy-3'-(2-propenyl)acetophenone | 24.8 g, yield=94.7% | OC1=C(C(=CC(=C1CC=C)OCOC)OCOC)C(C)=O | C15H20O6
